US06833382B2
34-13: Methyl 3-methylthio-2-acetamidocinnamate
4.8 g of methyl (3-methylthio)-2-acetamidocinnamate are obtained in the form of a white solid which melts at 139° C. by proceeding as in Example 34-3 but using 5.6 g of methyl 2-acetamidoacrylate, 0.18 g of palladium acetate, 8.2 g of tetrabutylammonium chloride, 5.86 g of sodium hydrogen carbonate and 6.5 g of 3-iodo-1-methylthiobenzene dissolved in 160 ml of anhydrous DMF.

reactant | methyl 2-acetamidoacrylate | 5.6 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | sodium hydrogen carbonate | 5.86 g | C(O)([O-])=O.[Na+]
reactant | 3-iodo-1-methylthiobenzene | 6.5 g | IC=1C=C(C=CC1)SC | C7H7IS
reactant | DMF | 160 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium chloride | 8.2 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.18 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3-methylthio-2-acetamidocinnamate | CSC=1C(=C(C=CC(=O)OC)C=CC1)NC(C)=O | C13H15NO3S
